US05010086
Alternative preparation: To a solution of 21.40 g 1,3dihydro-5-methyl-6-(4-nitrophenyl)-2H-imidazo[4,5-b]pyridin-2-one in 1000 ml DMF was added 2.05 g palladium-on-carbon catalyst, and the mixture was hydrogenated in a Parr reactor at 50 psi and room temperature. After 90 min. the reaction was complete and the mixture was filtered and concentrated in vacuo. The residue was washed with water and dried in a vacuum oven to give an essentially quantitative yield of 6-(4-aminophenyl)-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one in the free base form, m.p. above 300° C.

reactant | 1,3dihydro-5-methyl-6-(4-nitrophenyl)-2H-imidazo[4,5-b]pyridin-2-one | 21.40 g | CC1=C(C=C2C(=N1)NC(N2)=O)C2=CC=C(C=C2)[N+](=O)[O-] | C13H10N4O3
solvent | DMF | 1000 ml | CN(C)C=O | C3H7NO
catalyst | palladium-on-carbon | 2.05 g | [Pd] | Pd
product | 6-(4-aminophenyl)-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one | quantitative yield | NC1=CC=C(C=C1)C=1C=C2C(=NC1C)NC(N2)=O | C13H12N4O
